US08304419B2
Step A: 1,1-dimethylethyl (2S)-2-{[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-indol-5-yl)amino]carbonyl}-1-piperidinecarboxylate
BOP chloride (0.079 g, 0.309 mmol) was added to a solution of 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate (0.060 g, 0.103 mmol), (2S)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-piperidinecarboxylic acid (0.0236 g, 0.103 mmol) and diisopropylethylamine (0.090 mL, 0.514 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 1 hr. The reaction mixture was extracted with ethyl acetate and water. The organic layer was washed with water, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography with hexane:ethyl acetate to give the partially pure (˜85%) compound (0.028 g) as a clear resin.

reactant | BOP chloride | 0.309 mmol, 0.079 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.[Cl-]
reactant | 5-amino-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1H-indole-2-carboxamide trifluoroacetate | 0.103 mmol, 0.060 g | FC(C(=O)O)(F)F.NC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F
reactant | (2S)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-2-piperidinecarboxylic acid | 0.103 mmol, 0.0236 g | CC(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
reactant | diisopropylethylamine | 0.514 mmol, 0.090 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl (2S)-2-{[(2-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-indol-5-yl)amino]carbonyl}-1-piperidinecarboxylate | 0.028 g, ~85% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)F)OC1=CC(=CC(=C1)C#N)Cl | C34H32Cl2FN5O5
